US04824958
Methyl 3,4-dihydroxy-5-phenyl-2-thiophenecarboxylate.
Prepared by the method described in Example 15 from dimethyl α-phenyl-thiodiglycolate (9.0 g, 35 mmoles), dimethyl oxalate (6.1 g, 52 mmoles) and sodium (2.5 g, 109 mmoles). The product is obtained as a beige powder (3.8 g); mp 143°-144° C.

reactant | dimethyl α-phenyl-thiodiglycolate | 35 mmoles, 9.0 g | C1(=CC=CC=C1)C(C(=O)OC)(O)SC(C(=O)OC)O | C12H14O6S
reactant | dimethyl oxalate | 52 mmoles, 6.1 g | C(C(=O)OC)(=O)OC | C4H6O4
reactant | sodium | 109 mmoles, 2.5 g | [Na] | Na
product | Methyl 3,4-dihydroxy-5-phenyl-2-thiophenecarboxylate | 3.8 g | OC1=C(SC(=C1O)C1=CC=CC=C1)C(=O)OC | C12H10O4S
